US07569600B2
To a solution of 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (1 g, 2.18 mmol) in dichloromethane (10 mL) was added diisopropyl ethylamine (0.6 mL, 3.3 mmol), chloromethyl methyl ether (250 μL, 3.3 mmol) and DMAP (40 mg, 0.33 mmol). The reaction mixture was refluxed for 12 h. Solvents were removed and the residue as purified by silica gel column chromatography using ethyl acetate and hexane (1:3) as eluent to obtain 5-cyclohex-1-enyl-3-[(trans-4-methoxymethoxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (780 mg, 71%) as a syrup.

reactant | 5-cyclohex-1-enyl-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 2.18 mmol, 1 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1=CCCCC1 | C26H37NO4S
reactant | diisopropyl ethylamine | 3.3 mmol, 0.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 3.3 mmol, 250 μL | COCCl | C2H5ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.33 mmol, 40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-cyclohex-1-enyl-3-[(trans-4-methoxymethoxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 780 mg, 71% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)OCOC)C1=CCCCC1 | C28H41NO5S
